US09259470B2
2M Isopropylmagnesium chloride in THF (91.6 mL, 183 mmol) was added dropwise to ethyl 2-(tert-butyldimethylsilyloxy)acetate (10.0 g, 45.8 mmol) and N,O-dimethylhydroxylamine hydrochloride (9.38 g, 96.2 mmol) in THF (500 mL) cooled in ice. The mixture was stirred for 4.5 hours allowing to slowly warm to ambient temperature. The reaction mixture was quenched with aqueous NH4Cl and concentrated to ⅓ volume. The residue was diluted with water and extracted with EtOAc. The EtOAc was washed with brine, dried over MgSO4, filtered, and evaporated to yield 2-(tert-butyldimethylsilyloxy)-N-methoxy-N-methylacetamide (8.51 g, 36.5 mmol, 79.6% yield) as an oil.

reactant | Isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | ethyl 2-(tert-butyldimethylsilyloxy)acetate | 45.8 mmol, 10.0 g | [Si](C)(C)(C(C)(C)C)OCC(=O)OCC | C10H22O3Si
reactant | N,O-dimethylhydroxylamine hydrochloride | 96.2 mmol, 9.38 g | Cl.CNOC
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 183 mmol, 91.6 mL | C1CCOC1 | C4H8O
product | 2-(tert-butyldimethylsilyloxy)-N-methoxy-N-methylacetamide | 36.5 mmol, 8.51 g, 79.6% yield | [Si](C)(C)(C(C)(C)C)OCC(=O)N(C)OC | C10H23NO3Si
